US05272147
1-Methyl-5-(2-n-propoxyphenyl)-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one
1-Methyl-4-(2-n-propoxybenzamido)-3-n-propylpyrazole-5-carboxamide (0.34 g, 0.99 mmol) was added to a stirred mixture of 30% hydrogen peroxide solution (1.0 ml), potassium carbonate (0.54 g, 3.92 mmol), water (10 ml) and ethanol (5ml). The mixture was heated under reflux for 38 hours and then evaporated under vacuum. The residue was suspended in water (20 ml), then the suspension acidified with 2N hydrochloric acid and extracted with dichloromethane (3×20 ml). The extracts were combined, dried (Na2SO4) and evaporated under vacuum. The resulting residue was chromatographed on silica gel (6 g), using a methanol in dichloromethane elution gradient (0-1% methanol), to give an oil, successive trituration of which with ether gave the required product as a white solid (0.19 g, 59%), m.p. 111°-114° C. Found: C,66.26; H,6.92; N,17.15. C18H22N4O2 requires C,66.23; H,6.80; N, 17.17%

reactant | 1-Methyl-4-(2-n-propoxybenzamido)-3-n-propylpyrazole-5-carboxamide | 0.99 mmol, 0.34 g | CN1N=C(C(=C1C(=O)N)NC(C1=C(C=CC=C1)OCCC)=O)CCC | C18H24N4O3
reactant | hydrogen peroxide | 1.0 ml | OO | H2O2
reactant | potassium carbonate | 3.92 mmol, 0.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 10 ml | O | H2O
solvent | ethanol | 5ml | C(C)O | C2H6O
product | 1-Methyl-5-(2-n-propoxyphenyl)-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | 0.19 g, 59% | CN1N=C(C=2N=C(NC(C21)=O)C2=C(C=CC=C2)OCCC)CCC | C18H22N4O2
